US07943795B2
A. 4-Bromo-2,2-dimethylhexane-3-one
Slowly add bromine (10.87 ml, 212.15 mmol) to 2,2-dimethylhexane-3-one (27.20 g, 212.15 mmol) in ether (200 ml) and allow the reaction to stir for 14 h. Combine the reaction mixture with water (200 ml) and partition. Dry the organic layer over Na2SO4, filter and then concentrate the filtrate to provide the title compound as a yellow oil (48.2 g, quant). 1NMR (400 MHz, CDCl3) δ ppm: 1.01 (t, J=7.6 Hz, 3H), 1.27 (s, 9H), 2.03 (m, 2H), 4.58 (t, J=7.2 Hz, 1H). High Res. ES-MS: 207.0348; calc. for C8H15BrO+H, 207.0384.

reactant | bromine | 212.15 mmol, 10.87 ml | BrBr | Br2
reactant | 2,2-dimethylhexane-3-one | 212.15 mmol, 27.20 g | CC(C)(C(CCC)=O)C | C8H16O
reactant | water | 200 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-Bromo-2,2-dimethylhexane-3-one | 48.2 g | BrC(C(C(C)(C)C)=O)CC | C8H15BrO
